US08754073B2
77.1 2-(1-benzylpiperidin-4-yl)-4,5,6,7-tetrahydrobenzoxazole
A mixture of 2.43 g 2-chlorocyclohexanone and 1 g 1-benzylpiperidine-4-carboxylic acid amide (see WO2005/61483) is heated to 160° C. in the microwave until there is no further reaction. The product is purified by chromatography. 963 mg of the product are obtained. Analytical HPLC-MS (method B): RT=1.28 min.

reactant | 2-chlorocyclohexanone | 2.43 g | ClC1C(CCCC1)=O | C6H9ClO
reactant | 1-benzylpiperidine-4-carboxylic acid amide | 1 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)N | C13H18N2O
product | 2-(1-benzylpiperidin-4-yl)-4,5,6,7-tetrahydrobenzoxazole | 963 mg | C(C1=CC=CC=C1)N1CCC(CC1)C=1OC2=C(N1)CCCC2 | C19H24N2O
